US08202858B2
5-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic Acid
Lithium hydroxide monohydrate (120 mg, 2.86 mmol) was added to a solution of 5-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic acid methyl ester from Example E83.1 (410 mg, 0.95 mmol) in THF (10 ml) and water (5 ml). The mixture was stirred for 24 h at room temperature and concentrated in vacuo. The residue was acidified with 1M HCl and extracted with chloroform. The organic layer was washed with brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 3% acetic acid:7% methanol:90% chloroform) to yield the title compound (105 mg, 26%).

reactant | Lithium hydroxide monohydrate | 2.86 mmol, 120 mg | O.[OH-].[Li+]
reactant | 5-[2-methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic acid methyl ester | COC(CCCCC1=C(C=C(C=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)C)=O | C25H28N4O3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | water | 5 ml | O | H2O
product | 5-[2-Methyl-4-(3-methyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-phenyl]-pentanoic Acid | 105 mg, 26% | CC1=C(C=CC(=C1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=CC=C2)CCCCC(=O)O | C24H26N4O3
